US04169719
N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-furansulfonamide
To a solution of 2.10 g of 2-furansulfonyl isocyanate in 40 ml of methylene chloride was added 1.60 g 2-amino-4-methoxy-6-methylpyrimidine. The resulting mixture was stirred for 1 hour at room temperature, then refluxed for 15 minutes, and the solvent was removed under vacuum. The solid obtained was allowed to stand under ethyl ether containing a trace of acetonitrile for one day, and was then filtered and dried to give the desired product melting at 185°-188° (dec).

reactant | 2-furansulfonyl isocyanate | 2.10 g | O1C(=CC=C1)S(=O)(=O)N=C=O | C5H3NO4S
reactant | 2-amino-4-methoxy-6-methylpyrimidine | 1.60 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-furansulfonamide | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C=1OC=CC1 | C11H12N4O5S
